US05998470
b) N-(Cbz-leucinyl)-amino-propene oxide
N-(Cbz-leucinyl)-amino-propene (2.95 g, 9.7 mmol) was dissolved in methylene chloride (100 ml), then mCPBA (5.0 g, 29.1 mmol) was added and the reaction was stirred overnight. The reaction was diluted with saturated aqueous sodium bicarbonate, extracted with EtOAc, dried with magnesium sulfate, filtered, concentrated, and chromatographed (silica gel, 50% EtOAc:hexanes).

reactant | N-(Cbz-leucinyl)-amino-propene | 9.7 mmol, 2.95 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)NC=CC | C17H24N2O3
reactant | mCPBA | 29.1 mmol, 5.0 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(Cbz-leucinyl)-amino-propene oxide | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)NC1C(C)O1 | C17H24N2O4
